US08039480B2
In a baked-out dry flask under protective gas (argon), a mixture of 9.90 g of zinc dust (151 mmol) and 1.50 g of CuCl (15.15 mmol) in 20 ml of abs. diethyl ether was stirred at 50° C. (bath temperature) for approx. 100 min. The mixture was cooled to 15° C. (bath temperature). 6.1 ml of diiodomethane (75.0 mmol), 7.8 ml of abs. dimethoxyethane and finally 4.27 g of tert-butyl 4-methylenepiperidine-1-carboxylate (21.7 mmol) were successively and rapidly added dropwise. The reaction mixture was heated gradually to 50° C. (bath temperature) and stirred at this temperature for approx. 20 h. After this time, owing to still incomplete conversion, another 20 ml of diethyl ether and 6.1 ml of diiodomethane were added with cooling. The reaction mixture was heated to 50° C. (bath temperature) for a further 8 h. Cooling was followed by dilution with THF and filtration through Celite. The filtrate was admixed with 4.3 g of p-toluenesulfonic acid and a few drops of water, and then concentrated under reduced pressure. The crude product thus obtained was dissolved in 100 ml of THF and admixed with 7.09 g of Boc anhydride (1.5 eq.) and 5.5 ml of DIPEA (1.5 eq.). The mixture was stirred at RT for 48 h and then concentrated under reduced pressure. The residue thus obtained was stirred with approx. 150 ml of diethyl ether. The mixture was filtered with suction and the filter residue was washed thoroughly with diethyl ether. The filtrate thus obtained was concentrated. What remained was an oil which was taken up in 200 ml of dichloromethane and was washed twice with sat. NaHCO3 solution and once with dil. HCl solution (pH=5). The organic phase was dried over MgSO4 and then concentrated under reduced pressure. In this way, 2.8 g of tert-butyl 6-azaspiro[2.5]octane-6-carboxylate were obtained as a light-colored oil. This oil was dissolved in 5 ml of dichloromethane and admixed with a mixture of 10 ml of TFA and 0.5 ml of water. After stirring at RT for 48 h, the reaction solution was concentrated under reduced pressure and codistilled with toluene three times more. In this way, 6-azaspiro[2.5]octane was obtained as a TFA salt in the form of a brown oil which was clean enough for further reactions.

reactant | diiodomethane | 75.0 mmol, 6.1 ml | ICI | CH2I2
reactant | tert-butyl 4-methylenepiperidine-1-carboxylate | 21.7 mmol, 4.27 g | C=C1CCN(CC1)C(=O)OC(C)(C)C | C11H19NO2
reactant | diiodomethane | 6.1 ml | ICI | CH2I2
reactant | Boc anhydride | 7.09 g, 1.5 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 5.5 ml, 1.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | zinc | 151 mmol, 9.90 g | [Zn] | Zn
catalyst | CuCl | 15.15 mmol, 1.50 g | Cl[Cu]
solvent | diethyl ether | approx. 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | tert-butyl 6-azaspiro[2.5]octane-6-carboxylate | 2.8 g | C1CC12CCN(CC2)C(=O)OC(C)(C)C | C12H21NO2
